US07230001B1
4-amino-3-bromobenzenebutanoic acid
A mixture of 0.13 g (0.008662 mol) of 4-acetylamino-3-bromobenzenebutanoic acid and 10 ml of conc. hydrochloric acid was refluxed for 24 hours. The colourless, needle-shaped crystals of Rf 0.53 (eluant: dichloromethane/methanol 9/1 v/v) precipitated after cooling were identified by spectroscopy as the hydrochloride of the desired 4-amino-3-bromobenzenebutanoic acid. The crystals were dissolved in a little water, and the solution formed was adjusted to pH 6 using concentrated potassium carbonate solution. The precipitate was suction filtered, washed with water and dried in a circulating air dryer at 60° C. Yield: 1.35 g (60% of theoretical).

reactant | 4-acetylamino-3-bromobenzenebutanoic acid | 0.008662 mol, 0.13 g | C(C)(=O)NC1=C(C=C(C=C1)CCCC(=O)O)Br | C12H14BrNO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 4-amino-3-bromobenzenebutanoic acid | NC1=C(C=C(C=C1)CCCC(=O)O)Br | C10H12BrNO2
